US06660738B2
A solution of 0.24 (0.4 mmol) (2S,4R)-2-Chloro-4-[2-(2,4,5-trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidin-1-yl]-pyrimidine in 1 ml MeOH was treated at 0° C. with 0.16 ml (0.88 mmol) sodium methylate (5.5 M in MeOH) and kept at this temperature (2 h), warmed up and heated for 10 h at 75° C. After evaporation and extraction with aqueous saturated NH4Cl/Et2O (3×), the organic phases were washed with aq. 10% NaCl, dried (Na2SO4) and evaporated to give 0.19 g (77%) 2-Methoxy-4-[(2S,4R)-2-(2,4,5-trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidin-1-yl]-pyrimidine, MS: 628 (MH+), which was deprotected (see General method for S-deprotection, Method D) to give (3R,5S)-1-(2-Methoxy-pyrimidin-4-yl)-5-(2,4,5-trifluoro-benzyloxymethyl)-pyrrolidine-3-thiol, MS: 386 (MH+).

reactant | (2S,4R)-2-Chloro-4-[2-(2,4,5-trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidin-1-yl]-pyrimidine | ClC1=NC=CC(=N1)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)COCC1=C(C=C(C(=C1)F)F)F | C35H29ClF3N3OS
reactant | sodium methylate | 0.88 mmol, 5.5 M, 0.16 ml | C[O-].[Na+]
solvent | MeOH | 1 ml | CO | CH4O
product | 2-Methoxy-4-[(2S,4R)-2-(2,4,5-trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidin-1-yl]-pyrimidine | 0.19 g, 77% | COC1=NC=CC(=N1)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)COCC1=C(C=C(C(=C1)F)F)F | C36H32F3N3O2S
